US06022906
1a (4-Fluorophenyl)-3,3-dimethyl-2-methoxyoxirane
100.32 g (0.41 mol) of 2-bromo-1-(4-fluorophenyl)-2-methylpropan-1-one, prepared by brominating 1-(4-fluorophenyl)-2-methylpropan-1-one (as is described in EP-A-3002), are dissolved in 80 ml of dry methanol and 24.3 g (0.45 mol) of sodium methoxide in a solvent mixture of 60 ml dry methanol and 120 ml of chlorobenzene are added dropwise at 20° C. The methanol is then distilled off and the chlorobenzene solution is concentrated. The liquid crude product (90.8 g) is further purified by distillation at 60° C. and 0.2 mm Hg.

reactant | 2-bromo-1-(4-fluorophenyl)-2-methylpropan-1-one | 0.41 mol, 100.32 g | BrC(C(=O)C1=CC=C(C=C1)F)(C)C | C10H10BrFO
reactant | 1-(4-fluorophenyl)-2-methylpropan-1-one | FC1=CC=C(C=C1)C(C(C)C)=O | C10H11FO
reactant | A-3002 | CC(C)(C1=CC=C(C=C1)OCC(COC(=O)C=C)O)C2=CC=C(C=C2)OCC(COC(=O)C=C)O | C27H32O8
reactant | sodium methoxide | 0.45 mol, 24.3 g | C[O-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
solvent | chlorobenzene | 120 ml | ClC1=CC=CC=C1 | C6H5Cl
product | (4-Fluorophenyl)-3,3-dimethyl-2-methoxyoxirane | FC1=CC=C(C=C1)C1(OC1(C)C)OC | C11H13FO2
